* SPICE NETLIST
***************************************

.SUBCKT tsv80 TOP BOTTOM SUB
.ENDS
***************************************
.SUBCKT rx POS NEG
.ENDS
***************************************
.SUBCKT Q C B E S G
.ENDS
***************************************
.SUBCKT lddn D G S B
.ENDS
***************************************
.SUBCKT phd POS NEG P
.ENDS
***************************************
.SUBCKT sbd A C SUB
.ENDS
***************************************
.SUBCKT esddlv2 A C
.ENDS
***************************************
.SUBCKT esddlv A C SUB
.ENDS
***************************************
.SUBCKT lddp D G S B
.ENDS
***************************************
.SUBCKT probepad pad
.ENDS
***************************************
.SUBCKT L POS NEG SUB
.ENDS
***************************************
.SUBCKT L POS NEG MID SUB
.ENDS
***************************************
.SUBCKT hall A B C D S P1 P2
.ENDS
***************************************
.SUBCKT cpolyc_CDNS_779984254243 2 3
** N=3 EP=2 IP=0 FDC=1
C0 2 3 $[cpolya] $A=2886.23 $P=214.9 $X=1800 $Y=1000 $D=58
.ENDS
***************************************
.SUBCKT P1_C_CDNS_7799842542448
** N=1 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT nmos4_CDNS_779984254242
** N=3 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT PD_C_CDNS_7799842542444
** N=1 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT P1_C_CDNS_7799842542431
** N=3 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT ND_C_CDNS_7799842542434
** N=2 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT P1_C_CDNS_7799842542432
** N=2 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT ICV_1
** N=2 EP=0 IP=4 FDC=0
.ENDS
***************************************
.SUBCKT ICV_2
** N=2 EP=0 IP=4 FDC=0
.ENDS
***************************************
.SUBCKT pmos4_CDNS_779984254246
** N=5 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT ICV_3
** N=8 EP=0 IP=10 FDC=0
.ENDS
***************************************
.SUBCKT ICV_4 3 4 5 9 10 13
** N=13 EP=6 IP=16 FDC=2
M0 4 9 3 13 pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=0 $Y=7150 $D=41
M1 5 10 3 13 pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=0 $Y=13450 $D=41
.ENDS
***************************************
.SUBCKT pmos4_CDNS_779984254247
** N=4 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT ICV_5
** N=6 EP=0 IP=8 FDC=0
.ENDS
***************************************
.SUBCKT ICV_6
** N=8 EP=0 IP=12 FDC=0
.ENDS
***************************************
.SUBCKT nmos4_CDNS_779984254245
** N=4 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT ICV_7
** N=6 EP=0 IP=8 FDC=0
.ENDS
***************************************
.SUBCKT cvar_CDNS_779984254241 1 2
** N=2 EP=2 IP=0 FDC=2
M0 2 1 2 1 cvar w=0.0003432 l=6.5e-07 cols=13 rows=4 $X=0 $Y=0 $D=62
D1 1 2 p_nwd AREA=723.45 PJ=109.1 $X=-300 $Y=-300 $D=87
.ENDS
***************************************
.SUBCKT ICV_8 1
** N=6 EP=1 IP=16 FDC=1
M0 1 1 1 1 pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=0 $Y=850 $D=42
.ENDS
***************************************
.SUBCKT P1_C_CDNS_7799842542410
** N=2 EP=0 IP=0 FDC=0
.ENDS
***************************************
.SUBCKT nmos4_CDNS_779984254240 1 2 3 4
** N=4 EP=4 IP=0 FDC=4
M0 2 3 1 4 nmos4 L=4e-06 W=1e-06 AD=5e-13 AS=8.5e-13 PD=1e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=0 $Y=850 $D=37
M1 1 3 2 4 nmos4 L=4e-06 W=1e-06 AD=5e-13 AS=5e-13 PD=1e-06 PS=1e-06 NRD=0.425 NRS=0.425 $X=0 $Y=5850 $D=37
M2 2 3 1 4 nmos4 L=4e-06 W=1e-06 AD=5e-13 AS=5e-13 PD=1e-06 PS=1e-06 NRD=0.425 NRS=0.425 $X=0 $Y=10850 $D=37
M3 1 3 2 4 nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=5e-13 PD=2.7e-06 PS=1e-06 NRD=0.425 NRS=0.425 $X=0 $Y=15850 $D=37
.ENDS
***************************************
.SUBCKT 6_TIA_Front_Layout Vout VDDA Ibias GNDA Vin- Vin+
** N=13 EP=6 IP=646 FDC=160
R0 7 13 L=3.00901e-05 W=2e-06 $[rpolyh] $X=231300 $Y=43950 $D=17
D1 GNDA VDDA p_nwd AREA=5780.76 PJ=322.9 $X=76650 $Y=12700 $D=87
D2 GNDA VDDA p_nwd AREA=20225.4 PJ=587.6 $X=700 $Y=68200 $D=87
D3 GNDA GNDA p_nwd AREA=14562.5 PJ=527 $X=188050 $Y=61950 $D=87
M4 10 10 10 GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=43525 $Y=52250 $D=38
M5 10 10 10 GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=72775 $Y=52250 $D=38
M6 GNDA GNDA GNDA GNDA nmos4 L=2e-05 W=5e-06 AD=4.25e-12 AS=4.25e-12 PD=6.7e-06 PS=6.7e-06 NRD=0.085 NRS=0.085 $X=191650 $Y=11725 $D=38
M7 GNDA GNDA GNDA GNDA nmos4 L=2e-05 W=5e-06 AD=4.25e-12 AS=4.25e-12 PD=6.7e-06 PS=6.7e-06 NRD=0.085 NRS=0.085 $X=191650 $Y=30475 $D=38
M8 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=45775 $Y=52250 $D=37
M9 10 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=48025 $Y=52250 $D=37
M10 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=50275 $Y=52250 $D=37
M11 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=52525 $Y=52250 $D=37
M12 10 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=54775 $Y=52250 $D=37
M13 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=57025 $Y=52250 $D=37
M14 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=59275 $Y=52250 $D=37
M15 10 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=61525 $Y=52250 $D=37
M16 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=63775 $Y=52250 $D=37
M17 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=66025 $Y=52250 $D=37
M18 10 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=68275 $Y=52250 $D=37
M19 5 10 GNDA GNDA nmos4 L=4e-06 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=70525 $Y=52250 $D=37
M20 Vout 7 GNDA GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=8.5e-12 PD=1e-06 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=191050 $Y=41500 $D=37
M21 GNDA 6 6 GNDA nmos4 L=2e-05 W=5e-06 AD=4.25e-12 AS=4.25e-12 PD=6.7e-06 PS=6.7e-06 NRD=0.085 NRS=0.085 $X=191650 $Y=17975 $D=37
M22 GNDA 6 7 GNDA nmos4 L=2e-05 W=5e-06 AD=4.25e-12 AS=4.25e-12 PD=6.7e-06 PS=6.7e-06 NRD=0.085 NRS=0.085 $X=191650 $Y=24225 $D=37
M23 GNDA 7 Vout GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=194050 $Y=41500 $D=37
M24 Vout 7 GNDA GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=197050 $Y=41500 $D=37
M25 GNDA 7 Vout GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=200050 $Y=41500 $D=37
M26 Vout 7 GNDA GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=203050 $Y=41500 $D=37
M27 GNDA 7 Vout GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=206050 $Y=41500 $D=37
M28 Vout 7 GNDA GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=209050 $Y=41500 $D=37
M29 GNDA 7 Vout GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=212050 $Y=41500 $D=37
M30 Vout 7 GNDA GNDA nmos4 L=2e-06 W=1e-05 AD=5e-12 AS=5e-12 PD=1e-06 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=215050 $Y=41500 $D=37
M31 GNDA 7 Vout GNDA nmos4 L=2e-06 W=1e-05 AD=8.5e-12 AS=5e-12 PD=1.17e-05 PS=1e-06 NRD=0.0425 NRS=0.0425 $X=218050 $Y=41500 $D=37
M32 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=32200 $Y=88550 $D=42
M33 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=32200 $Y=156950 $D=42
M34 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=44500 $Y=88550 $D=42
M35 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=44500 $Y=156950 $D=42
M36 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=56800 $Y=88550 $D=42
M37 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=56800 $Y=156950 $D=42
M38 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=69100 $Y=88550 $D=42
M39 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=69100 $Y=156950 $D=42
M40 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=81400 $Y=88550 $D=42
M41 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=81400 $Y=156950 $D=42
M42 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=93700 $Y=88550 $D=42
M43 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=93700 $Y=156950 $D=42
M44 VDDA VDDA VDDA VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=93925 $Y=25100 $D=42
M45 VDDA VDDA VDDA VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=93925 $Y=43900 $D=42
M46 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=106000 $Y=88550 $D=42
M47 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=106000 $Y=156950 $D=42
M48 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=118300 $Y=88550 $D=42
M49 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=118300 $Y=156950 $D=42
M50 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=130600 $Y=88550 $D=42
M51 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=130600 $Y=156950 $D=42
M52 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=142900 $Y=88550 $D=42
M53 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=142900 $Y=156950 $D=42
M54 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=155200 $Y=88550 $D=42
M55 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=155200 $Y=99950 $D=42
M56 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=155200 $Y=111350 $D=42
M57 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=155200 $Y=122750 $D=42
M58 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=155200 $Y=134150 $D=42
M59 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=155200 $Y=145550 $D=42
M60 VDDA VDDA VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=155200 $Y=156950 $D=42
M61 VDDA VDDA VDDA VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=163225 $Y=25100 $D=42
M62 VDDA VDDA VDDA VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=163225 $Y=43900 $D=42
M63 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=32200 $Y=99950 $D=41
M64 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=32200 $Y=111350 $D=41
M65 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=32200 $Y=122750 $D=41
M66 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=32200 $Y=134150 $D=41
M67 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=32200 $Y=145550 $D=41
M68 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=44500 $Y=99950 $D=41
M69 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=44500 $Y=111350 $D=41
M70 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=44500 $Y=122750 $D=41
M71 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=44500 $Y=134150 $D=41
M72 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=44500 $Y=145550 $D=41
M73 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=56800 $Y=99950 $D=41
M74 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=56800 $Y=111350 $D=41
M75 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=56800 $Y=122750 $D=41
M76 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=56800 $Y=134150 $D=41
M77 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=56800 $Y=145550 $D=41
M78 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=69100 $Y=99950 $D=41
M79 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=69100 $Y=111350 $D=41
M80 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=69100 $Y=122750 $D=41
M81 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=69100 $Y=134150 $D=41
M82 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=69100 $Y=145550 $D=41
M83 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=81400 $Y=99950 $D=41
M84 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=81400 $Y=111350 $D=41
M85 1 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=81400 $Y=122750 $D=41
M86 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=81400 $Y=134150 $D=41
M87 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=81400 $Y=145550 $D=41
M88 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=93700 $Y=99950 $D=41
M89 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=93700 $Y=111350 $D=41
M90 1 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=93700 $Y=122750 $D=41
M91 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=93700 $Y=134150 $D=41
M92 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=93700 $Y=145550 $D=41
M93 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=106000 $Y=99950 $D=41
M94 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=106000 $Y=111350 $D=41
M95 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=106000 $Y=122750 $D=41
M96 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=106000 $Y=134150 $D=41
M97 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=106000 $Y=145550 $D=41
M98 7 Vin+ 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=112825 $Y=25100 $D=41
M99 6 Vin- 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=112825 $Y=43900 $D=41
M100 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=118300 $Y=99950 $D=41
M101 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=118300 $Y=111350 $D=41
M102 3 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=118300 $Y=122750 $D=41
M103 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=118300 $Y=134150 $D=41
M104 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=118300 $Y=145550 $D=41
M105 6 Vin- 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=119125 $Y=25100 $D=41
M106 7 Vin+ 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=119125 $Y=43900 $D=41
M107 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=130600 $Y=99950 $D=41
M108 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=130600 $Y=111350 $D=41
M109 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=130600 $Y=122750 $D=41
M110 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=130600 $Y=134150 $D=41
M111 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=130600 $Y=145550 $D=41
M112 7 Vin+ 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=138025 $Y=25100 $D=41
M113 6 Vin- 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=138025 $Y=43900 $D=41
M114 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=142900 $Y=99950 $D=41
M115 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=142900 $Y=111350 $D=41
M116 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=142900 $Y=122750 $D=41
M117 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=142900 $Y=134150 $D=41
M118 Vout 1 VDDA VDDA pmos4 L=1e-05 W=1e-06 AD=8.5e-13 AS=8.5e-13 PD=2.7e-06 PS=2.7e-06 NRD=0.425 NRS=0.425 $X=142900 $Y=145550 $D=41
M119 6 Vin- 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=144325 $Y=25100 $D=41
M120 7 Vin+ 3 VDDA pmos4 L=4e-06 W=1e-05 AD=8.5e-12 AS=8.5e-12 PD=1.17e-05 PS=1.17e-05 NRD=0.0425 NRS=0.0425 $X=144325 $Y=43900 $D=41
X121 Vout 13 cpolyc_CDNS_779984254243 $T=189400 63300 0 0 $X=188050 $Y=61950
X122 Vout 13 cpolyc_CDNS_779984254243 $T=189400 121950 0 0 $X=188050 $Y=120600
X123 Vout 13 cpolyc_CDNS_779984254243 $T=249600 63300 0 0 $X=248250 $Y=61950
X124 Vout 13 cpolyc_CDNS_779984254243 $T=249600 121950 0 0 $X=248250 $Y=120600
X292 3 7 6 Vin+ Vin- VDDA ICV_4 $T=93075 35100 0 270 $X=91875 $Y=23900
X293 3 6 7 Vin- Vin+ VDDA ICV_4 $T=93075 53900 0 270 $X=91875 $Y=42700
X294 3 7 6 Vin+ Vin- VDDA ICV_4 $T=118275 35100 0 270 $X=117075 $Y=23900
X295 3 6 7 Vin- Vin+ VDDA ICV_4 $T=118275 53900 0 270 $X=117075 $Y=42700
X296 3 7 6 Vin+ Vin- VDDA ICV_4 $T=143475 35100 0 270 $X=142275 $Y=23900
X297 3 6 7 Vin- Vin+ VDDA ICV_4 $T=143475 53900 0 270 $X=142275 $Y=42700
X312 GNDA Ibias cvar_CDNS_779984254241 $T=3350 13950 1 90 $X=1800 $Y=11675
X313 GNDA 10 cvar_CDNS_779984254241 $T=48450 13975 0 0 $X=46175 $Y=12425
X314 VDDA ICV_8 $T=19050 89550 0 270 $X=17850 $Y=87350
X315 VDDA ICV_8 $T=19050 100950 0 270 $X=17850 $Y=98750
X316 VDDA ICV_8 $T=19050 112350 0 270 $X=17850 $Y=110150
X317 VDDA ICV_8 $T=19050 123750 0 270 $X=17850 $Y=121550
X318 VDDA ICV_8 $T=19050 135150 0 270 $X=17850 $Y=132950
X319 VDDA ICV_8 $T=19050 146550 0 270 $X=17850 $Y=144350
X320 VDDA ICV_8 $T=19050 157950 0 270 $X=17850 $Y=155750
X323 5 1 Ibias GNDA nmos4_CDNS_779984254240 $T=29250 44700 0 90 $X=8300 $Y=43900
X324 10 Ibias Ibias GNDA nmos4_CDNS_779984254240 $T=29250 53700 0 90 $X=8300 $Y=52900
X325 5 1 Ibias GNDA nmos4_CDNS_779984254240 $T=29250 61900 1 270 $X=8300 $Y=60100
.ENDS
***************************************
